US07601728B2
Sodium 6-[(3R)-3-aminopiperidin-1-yl]-5-(2-chlorobenzyl)-1,3-dimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-pyrrolo[3,2-d]pyrimidine-7-carboxylate
A 1N aqueous sodium hydroxide solution (1 ml), ethanol (1 ml) and tetrahydrofuran (1 ml) were added to methyl 6-[(3R)-3-aminopiperidin-1-yl]-5-(2-chlorobenzyl)-1,3-dimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-pyrrolo[3,2-d]pyrimidine-7-carboxylate hydrochloride (53 mg), and the resulting mixture was stirred at 80° C. for 3 hours. After the reaction solution was cooled to 25° C., water was added thereto, followed by washing with ethyl acetate, and the aqueous layer was extracted with chloroform. The organic layer was dried over anhydrous sodium sulfate and filtered and the filtrate was concentrated under reduced pressure to obtain the title compound (41 mg) as a white solid.

reactant | sodium hydroxide | 1N, 1 ml | [OH-].[Na+]
reactant | ethanol | 1 ml | C(C)O | C2H6O
reactant | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
reactant | methyl 6-[(3R)-3-aminopiperidin-1-yl]-5-(2-chlorobenzyl)-1,3-dimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-pyrrolo[3,2-d]pyrimidine-7-carboxylate hydrochloride | 53 mg | Cl.N[C@H]1CN(CCC1)C1=C(C=2N(C(N(C(C2N1CC1=C(C=CC=C1)Cl)=O)C)=O)C)C(=O)OC
solvent | water | O | H2O
product | Sodium 6-[(3R)-3-aminopiperidin-1-yl]-5-(2-chlorobenzyl)-1,3-dimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-pyrrolo[3,2-d]pyrimidine-7-carboxylate | 41 mg | N[C@H]1CN(CCC1)C1=C(C=2N(C(N(C(C2N1CC1=C(C=CC=C1)Cl)=O)C)=O)C)C(=O)[O-].[Na+] | InChI=1S/C21H24ClN5O4.Na/c1-24-16-15(20(29)30)18(26-9-5-7-13(23)11-26)27(10-12-6-3-4-8-14(12)22)17(16)19(28)25(2)21(24)31;/h3-4,6,8,13H,5,7,9-11,23H2,1-2H3,(H,29,30);/q;+1/p-1/t13-;/m1./s1
